* digital A and analog a stay two nets under distinguish
* The distinguish half of tests/xspice/case/auto-bridge-node-case.cir, and it
* is a GUARD rather than a RED: this deck prints the same number before and
* after the Phase 3 gate 2 change, because ng_ideq() reduces to exactly the
* strcmp that was there under 'distinguish' as well as under 'fold'.  It is
* here to pin that down, since gate 2's whole behavioural delta is meant to
* be confined to 'preserve'.
* Under 'distinguish' the digital node 'A' and the analog net 'a' are two
* names, so no bridge is inserted and 'a' is driven by nothing but R1 to
* ground.  v(a) = 0 is the correct answer, not a failure - it is the same
* stdout the same deck produces under 'preserve' before gate 2 and a
* different meaning.
* The miss is no longer silent.  Decision 2 of
* doc/claude/decisions/0001-distinguish.md asks for a near-miss warning at a
* failed resolution; doc/codex/issues/0030 added it here, so under
* casemode=distinguish this run also prints, on stderr,
*   Warning: no analog node named 'A'; 'a' differs only in case (casemode=distinguish)
* from report_bridge_case_miss() (src/xspice/evt/evtcheck_nodes.c).
* check.sh captures stdout only and its egrep -v filter drops every line
* containing 'Warning' from both sides, so that line cannot be asserted here;
* it is quoted in the commit and this deck asserts the number, which the
* diagnostic must not move - and did not.
V1 in 0 dc 1
R0 in 0 1meg
A1 [in] [Dig] adc1
.model adc1 adc_bridge(in_low=0.4 in_high=0.6)
A2 Dig A dbuf
.model dbuf d_buffer
R1 a 0 1k
.OPTIONS noacct
.control
op
print v(a)
.endc
.end
