* two case-variant .params and no exact one: the auto-bridge must not guess
* The boundary of doc/codex/issues/0029 defect (a).  entrynb_constructed()
* tolerates the deck's case only for the component ngspice itself spelled,
* which makes 'VCC' and 'Vcc' equally good answers to a probe for 'vcc'.
* Under 'distinguish' those are two different parameters with two different
* values, ngspice has no way to know which the deck meant, and the hash order
* that would decide it is not something a deck can see or rely on.  So
* neither is used, the fallback vcc = 3.3 applies, and the reason is said out
* loud on stderr:
*   Warning: parameter 'vcc' is a name ngspice built; 'VCC' and 'Vcc' both
*   differ from it only in case, so neither is used (casemode=distinguish)
* That line is verified by hand and quoted in the commit rather than asserted
* here: tests/bin/check.sh captures stdout only and its egrep -v filter drops
* any line containing 'Warning' from both sides.  A deck CAN assert on a
* diagnostic - it redirects with '>&' and reads the capture back, which is
* what tests/xspice/casedist/auto-bridge-node-case-report.cir does - but only
* if the diagnostic is written to cp_err, and this one is written to stderr
* (src/frontend/numparam/xpressn.c).  That is doc/codex/issues/0039.
* What this deck asserts is the number that goes with it -
* 3.300000e+00, the documented fallback, rather than 5 or 7.
* Under 'fold' and 'preserve' the same deck prints 7.000000e+00: there the
* two .params are one parameter and the second assignment wins, so there is
* nothing ambiguous to report.  This deck is 'distinguish'-only for that
* reason.
.param VCC=5
.param Vcc=7
V1 in 0 dc 1
R0 in 0 1meg
A1 [in] [dig] adc1
.model adc1 adc_bridge(in_low=0.4 in_high=0.6)
A2 dig outn dbuf
.model dbuf d_buffer
R1 outn 0 1k
.OPTIONS noacct
.control
op
print v(outn)
.endc
.end
