* two event-node spellings stay two event nodes under distinguish
* The distinguish twin of tests/xspice/case/event-node-case.cir.  There, under
* 'preserve', the event node 'Dig' written by the adc_bridge and the event node
* 'dig' read by the d_buffer are ONE node and v(aout) is 5.0.  Here they are
* two: 'Dig' is driven and read by nothing, 'dig' is read and driven by
* nothing, the d_buffer sees the digital type's default for the whole run and
* v(aout) = 0.0.  That is the correct answer for this mode, not a failure.
* The miss used to be silent, which is doc/codex/issues/0030.  Under
* casemode=distinguish the run now also prints, on stderr,
*   Warning: no event node named 'dig'; 'Dig' differs only in case (casemode=distinguish)
* from EVTnode_case_check() (src/xspice/evt/evttermi.c), called from
* src/frontend/spiceif.c once the auto-bridge has run.  tests/bin/check.sh
* captures stdout only and its egrep -v filter drops every line containing
* 'Warning' from both sides, so no deck in this harness can assert that line;
* it is quoted in the commit and this deck asserts the number, which the
* diagnostic must not move.
* The digital and analog names are deliberately disjoint - 'dig', 'Dig' and
* 'outq' are only ever event nodes, 'aout' only ever an analog node - so no
* auto-bridge is generated and this deck exercises the interner alone,
* independently of src/xspice/evt/evtcheck_nodes.c.
V1 in 0 dc 1
R0 in 0 1meg
A1 [in] [Dig] adc1
.model adc1 adc_bridge(in_low=0.4 in_high=0.6)
A2 dig outq dbuf
.model dbuf d_buffer
A3 [outq] [aout] dac1
.model dac1 dac_bridge(out_low=0.0 out_high=5.0 out_undef=2.5)
R1 aout 0 1k
.OPTIONS noacct
.control
op
print v(aout)
.endc
.end
